datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([N:31]=[C:20]=[O:21])C=C1.[CH:10]1([Li:11])[CH:61]=[CH:62][C:72]2=[C:71]1[CH:73]=[CH:74][CH:75]=[CH:76]2>>C1=CC=C([N:31]=[C:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:73]=[CH:74][CH:75]=[CH:76]3)[O-:21])C=C1.[Li+:11] 10,11=10,20;20,21=21"
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.CC[O:62]/[C:11](=[CH:10]/[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[O-:12]>>CC[O:62][C:11]([CH:10]([CH:20]1[C:21](C[N+]23CCN(CC2)CC3)=[C:22]([O-:23])O[C:32]2=[C:31]1[CH:36]=[CH:35][CH:34]=[CH:33]2)[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)O1>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([F:20])O1 10,11=10,20;12=11,12;20,21=21"
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.C[C:11]1=[N:10][C:61]2=[C:62](C=CC=C2)[NH:12]1>>C[C:11]1=[NH+:12][C:62]2=[C:61](C=CC=C2)[N:10]1[CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2 10,11=10,20;12=11,12"
"CC[O:61]/[C:11](=[C:10](\C1CCCCC1)[C:72](=[O:73])[O:83]CC)[O-:12].C[N+:21](C)=[CH:20]Cl>>CC[O:61][C:11]([C:10](C1CCCCC1)([CH:20](Cl)[N:21](C)C)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21"
CC(C)[O:72][C:61]([S-:10])=[S:62].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)[O:72][C:61]([S:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)=[S:62] 10=20
"CC1(C)C[C:11]([O-:12])=[CH:10][C:61](=[O:62])C1.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1(C)C[C:11](=[O:12])[CH:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:61](=[O:62])C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[S+:61](C)/[CH:10]=[C:11](/C1=CC=C(Br)C=C1)[O-:12].[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>C[S+:61](C)[CH:10]([C:11](C1=CC=C(Br)C=C1)=[O:12])[C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2 10,11=10,20;12=11,12"
"C[C:61]1=[CH:62][N:10]=[CH:11][N-:12]1.O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C[C:61]1=[CH:62][N:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:11]=[N:12]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]1>>Br[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([N+:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"CC[O:92][C:61]([CH-:10][S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>CC[O:92][C:61]([CH:10]([C:20]([S-:21])=[N:31]C1=CC=C([N+](=O)[O-])C=C1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21"
C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.CC[O:72][C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62]>>CC[O:72][C:61]([CH:10]([CH:20]1[C:31]2=[C:32](C=CC=C2)[CH:33]=[CH:34][C:35]2=[C:36]1C=CC=C2)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20
"CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62].COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC>>CC[O:82][C:61]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC(OC)=C(OC)C(OC)=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62] 10=20;20,21=21,22;22,23=23"
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[CH:10]2CCCC[C:11]2=[N+:12]2CCCC2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCC2)C=C1.CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20](C)[CH:10](C1=CC=CC=C1)[CH:11]=[N+:12]1CCCC1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
